US06413995B1
4.06 g of (E)-3-[4-[(2-methoxyethoxy)methoxy]phenyl]-N-(3-pyridylmethyl)-2-propenoic acid amide was dissolved in 100 ml of 25% HCl/methanol and stirred at room temperature for 1 hour. The solvent was evaporated under reduced pressure to give (E)-3-(4-hydroxyphenyl)-N-(3-pyridylmethyl)-2-propenoic acid amide hydrochloride as a colorless solid, which was then dissolved in 40 ml dimethylformamide and stirred with 10.2 g of potassium carbonate and 2.5 ml of ethyl bromoacetate at room temperature for 2 hours. After addition of ethyl acetate, the reaction mixture was filtered to remove insoluble products. The resulting filtrate was washed with water and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give a residue, which was then purified via column chromatography on silica gel (chloroform:methanol=50:1), followed by recrystallization, to provide the compound of interest (2.31 g, 58%).

reactant | (E)-3-[4-[(2-methoxyethoxy)methoxy]phenyl]-N-(3-pyridylmethyl)-2-propenoic acid amide | 4.06 g | COCCOCOC1=CC=C(C=C1)/C=C/C(=O)NCC=1C=NC=CC1 | C19H22N2O4
reactant | HCl methanol | 100 ml | Cl.CO
product | (E)-3-(4-hydroxyphenyl)-N-(3-pyridylmethyl)-2-propenoic acid amide hydrochloride | Cl.OC1=CC=C(C=C1)/C=C/C(=O)NCC=1C=NC=CC1 | InChI=1S/C15H14N2O2.ClH/c18-14-6-3-12(4-7-14)5-8-15(19)17-11-13-2-1-9-16-10-13;/h1-10,18H,11H2,(H,17,19);1H/b8-5+;
